US07777047B2
(2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid
A mixture of ethyl (2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate (960 mg), 1N aqueous sodium hydroxide solution (5 mL), tetrahydrofuran (5 mL) and ethanol (5 mL) was stirred for 50° C. for 1 hr. 1N Hydrochloric acid (5 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated to give the title compound (800 mg, yield 88%) as a yellow amorphous solid. The solid was crystallized from ethyl acetate-hexane, and recrystallized from ethyl acetate-hexane to give pale-yellow powder. melting point 107-109° C.

reactant | ethyl (2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 960 mg | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)CC(=O)OCC | C24H28N4O6S2
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 800 mg, yield 88% | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)CC(=O)O | C22H24N4O6S2
